US05393735
To a solution of m-fluorophenol (24.2 g, 0.22 mol) in 79.2 ml of 25% aqueous sodium hydroxide heated to 45° C. with an oil bath was added 29.5 ml (0.26 mol) methyl 2-chloropropionate. The reaction mixture was heated to 80° C. for 17 hours and then allowed to cool. When the temperature reached about 40° C., concentrated HCl (25 ml) was added and the reaction mixture was allowed to cool to room temperature. The reaction mixture was extracted twice with 100 ml ethyl ether. The organic layers were combined and washed with 200 ml of 1.5M aqueous sodium carbonate. The aqueous layer was separated and acidified to pH 1, by pH test paper, by adding concentrated HCl. The acidified aqueous layer was extracted with 200 ml ethyl ether. The organic layer was separated, dried with MgSO4 and filtered. The solvent was removed in vacuo to yield 17 g (41% yield) of 2-(3' -fluorophenoxy)propionic acid as a yellow solid (m.p. 72.5°-74° C.).

reactant | m-fluorophenol | 0.22 mol, 24.2 g | FC=1C=C(C=CC1)O | C6H5FO
reactant | methyl 2-chloropropionate | 0.26 mol, 29.5 ml | ClC(C(=O)OC)C | C4H7ClO2
reactant | HCl | 25 ml | Cl | ClH
solvent | sodium hydroxide | 79.2 ml | [OH-].[Na+]
product | 2-(3' -fluorophenoxy)propionic acid | 17 g, 41% yield | FC=1C=C(OC(C(=O)O)C)C=CC1 | C9H9FO3
